US04971982
2.97 g of 2,2-dimethyl-4-(3-methyl-2-pyridyl)-2H-1benzopyran were dissolved in 50 ml of ethanol and shaken at room temperature under a hydrogen atmosphere with 10% palladium-on-charcoal in the presence of 0.5 ml of acetic acid. After 24 hours the catalyst was filtered off and the filtrate was evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:4) for the elution. There were obtained 1.4 g of 3,4-dihydro-2,2-dimethyl-4-(3-methyl-2-pyridyl) -2H-1-benzopyran together with mixed fractions containing this compound and starting material. The procedure described above was carried out on the mixed fractions to give 675 mg of 3,4-dihydro-2,2-dimethyl-4-(3-methyl-2-pyridyl) -2H-1-benzopyran which was recrystallized from t-butyl methyl ether and then melted at 100-102° C.

reactant | 2,2-dimethyl-4-(3-methyl-2-pyridyl)-2H-1benzopyran | 2.97 g | CC1(OC2=C(C(=C1)C1=NC=CC=C1C)C=CC=C2)C | C17H17NO
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3,4-dihydro-2,2-dimethyl-4-(3-methyl-2-pyridyl) -2H-1-benzopyran | 1.4 g | CC1(OC2=C(C(C1)C1=NC=CC=C1C)C=CC=C2)C | C17H19NO
